US03957764
N-Ethyl-N-phenethylformamide was prepared from N-ethylphenethylamine and chloral. The boiling point was 107°-108°C/0.4 mm Hg.

reactant | N-ethylphenethylamine | C(C)NCCC1=CC=CC=C1 | C10H15N
reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
product | N-Ethyl-N-phenethylformamide | C(C)N(C=O)CCC1=CC=CC=C1 | C11H15NO
